US03953460
By the procedure of Example 4(i), 3-hydroxy-2-[(2-aminoethyl)thiomethyl]pyridine (from the dihydrobromide (4.2 g)) is reacted with 1-nitro-2,2-bis-methylthioethylene (2.0 g) to give 1-nitro-2-methylthio- 2-[2-((3-hydroxy-2-pyridyl)methylthio)ethylamino]ethylene which, on reaction with methylamine by the process of Example 3(ii) gives 1-nitro-2-methylamino-2-[2-((3-hydroxy-2-pyridyl)methylthio)ethylamino] ethylene.

reactant | 3-hydroxy-2-[(2-aminoethyl)thiomethyl]pyridine | OC=1C(=NC=CC1)CSCCN | C8H12N2OS
reactant | 1-nitro-2,2-bis-methylthioethylene | 2.0 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
product | 1-nitro-2-methylthio- 2-[2-((3-hydroxy-2-pyridyl)methylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC1=NC=CC=C1O)SC | C11H15N3O3S2
